US05432192
Ethyl [N-[3-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]acetate
A mixture of 2.61 g of 5-[3-(methylamino)propylidene]-5H-dibenzo[a,d]cycloheptene, 2.00 g of ethyl bromoacetate, 1.38 g of potassium carbonate, and 13 ml of N,N-dimethylformamide was stirred at 70° C. for 4 hours. After the reaction was completed, water was added to the reaction mixture and the mixture was then extracted with diethyl ether. The ether layer was washed with water and dried, and then the solvent was removed by distillation. The residue was purified by column chromatography on aluminum oxide [n-hexane-diethyl ether (1:1)] to give 1.88 g of slightly yellow viscous liquid.

reactant | 5-[3-(methylamino)propylidene]-5H-dibenzo[a,d]cycloheptene | 2.61 g | CNCCC=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C19H19N
reactant | ethyl bromoacetate | 2.00 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl [N-[3-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)propyl]-N-methylamino]acetate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CCCN(C)CC(=O)OCC | C23H25NO2
